US08809525B2
N-[3-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)phenyl]acetamide (59 mg, 62%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (75 mg, 0.299 mmol) and 3-acetamidophenylboronic acid (61.5 mg, 0.344 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.299 mmol, 75 mg | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-acetamidophenylboronic acid | 0.344 mmol, 61.5 mg | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
product | N-[3-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)phenyl]acetamide | 59 mg, 62% | NC=1N=NC(=C(N1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(C)=O | C17H15N5O
